### PR TITLE
BinInt: 3 lemmas about testbit, mod _ 2^, ones

### PR DESCRIPTION
**Pull request by andres-erbsen**
**Kind:** feature
- [x] Entry added in CHANGES.md. 

Here are three lemmas about `Z.testbit` that I have needed to copy-paste into multiple projects. For example, they appear [here in Word/Properties.v](https://github.com/mit-plv/coqutil/blob/master/src/Word/Properties.v#L8). I am proposing placing them into `BinInt.v` right after the dependencies become available.

The lemma statements are as follows:

```coq
Z.testbit_mod_pow2 : forall a n i : Z, 0 <= n -> Z.testbit (a mod 2 ^ n) i = ((i <? n) && Z.testbit a i)%bool
Z.testbit_ones : forall n i : Z, 0 <= n -> Z.testbit (Z.ones n) i = ((0 <=? i) && (i <? n))%bool
Z.testbit_ones_nonneg : forall n i : Z, 0 <= n -> 0 <= i -> Z.testbit (Z.ones n) i = (i <? n)
```

### CODE REVIEW

**Comment by andres-erbsen** [comment]
I don't understand the equations failure. what is the recommended procedure for debugging this?

**Comment by JasonGross** [comment]
"Error: Unable to locate library ordinals." Sounds like an unrelated error.  Maybe a bug in equations itself, maybe a bug in parallelism somewhere.

**Comment by andres-erbsen** [comment]
travis build again

**Comment by andres-erbsen** [comment]
The CI failures look spurious (and different between runs). Any chance of getting a review on this?

File: theories/ZArith/BinInt.v [hunk 1]
```diff
@@ -1259,6 +1259,30 @@ Proof.
...
+
+Lemma testbit_ones n i (H : 0 <= n)
+  : testbit (ones n) i = ((0 <=? i) && (i <? n))%bool.
+Proof.
+  destruct (leb_spec 0 i), (ltb_spec i n); cbn;
+    rewrite ?testbit_neg_r, ?ones_spec_low, ?ones_spec_high by auto; trivial.
+Qed.
+
+Lemma testbit_ones_nonneg n i (Hn : 0 <= n) (Hi: 0 <= i)
+  : testbit (ones n) i = (i <? n)%bool.
```
Comment (vbgl) [inline theories/ZArith/BinInt.v]: Why do you need the `bool` scope annotation here?

File: theories/ZArith/BinInt.v [hunk 2]
```diff
@@ -1259,6 +1259,30 @@ Proof.
  f_equal. now rewrite <- add_assoc, add_opp_diag_r, add_0_r.
 Qed.
 
+(** * [testbit] in terms of comparision. *)
+
+Lemma testbit_mod_pow2 a n i (H:0<=n)
```
Comment (vbgl) [inline theories/ZArith/BinInt.v]: A bit of whitespace around `:` and `<=` would not hurt.

**Comment by vbgl** [comment]
Hugo, what do you think about these changes? Could you be assigned to this PR? Thanks.

ping @herbelin

**Comment by andres-erbsen** [comment]
bump?

**Comment by vbgl** [comment]
Please rebase and squash. I’ll take care of merging when CI goes through (unless someone opposes).

**Comment by vbgl** [comment]
I took care of the rebasing. Let’s only wait for the CI to complete.

**Review by vbgl — APPROVED** [review]

**Comment by andres-erbsen** [comment]
Thanks! CI failure is #9767 as expected.

**Review by vbgl — APPROVED** [review]
